US05849735
5-([1,1'-Biphenyl]-4-ylcarbonyl)-5,6-dihydropyrido[2,3-b][1,4]benzothiazepine
As described for Example 26, 5,6-dihydropyrido[2,3-b][1,4]benzothiazepine is reacted with [1,1'-biphenyl]-4-carbonyl chloride to give the product as a solid.

reactant | 5,6-dihydropyrido[2,3-b][1,4]benzothiazepine | N1=CC=CC2=C1SC1=C(CN2)C=CC=C1 | C12H10N2S
reactant | [1,1'-biphenyl]-4-carbonyl chloride | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
product | 5-([1,1'-Biphenyl]-4-ylcarbonyl)-5,6-dihydropyrido[2,3-b][1,4]benzothiazepine | C1(=CC=C(C=C1)C(=O)N1C2=C(SC3=C(C1)C=CC=C3)N=CC=C2)C2=CC=CC=C2 | C25H18N2OS
